US06355648B1
5′-(4-Fluorophenyl)-spiro[cyclohexane-1,3′-[3H]indol}-2′ (1′H)-one 2′(O-benzyloxime).
Prepared from 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′ (1′H)-one 2′(O-benzyloxime) (1.0 g, 2.6 mmol), and 4-fluorophenyl boronic acid (0.72 g, 5.2 mmol) according to Example 45 procedure A. The product was purified by flash silica gel chromatography; (eluant: 10:0.5 hexane:ethyl acetate) to give the desired product (0.70 g, 1.7 mmol, 67%) as a viscous oil. 1H NMR (500 MHz, DMSO-d6) δ 1.42-1.77 (8H, m) 1.95-1.99 (2H, q) 5.00 (2H, s) 6.84 (1H, d, J=8.1 Hz) 7.21-7.63 (1H, m) 9.58 (1H, s); MS (ESI(−ve)) m/z 399 (M−H)−.

reactant | 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′ (1′H)-one 2′(O-benzyloxime) | 2.6 mmol, 1.0 g | C(C1=CC=CC=C1)ON=C1NC2=CC=C(C=C2C12CCCCC2)Br | C20H21BrN2O
reactant | 4-fluorophenyl boronic acid | 5.2 mmol, 0.72 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5′-(4-Fluorophenyl)-spiro[cyclohexane-1,3′-[3H]indol}-2′ (1′H)-one 2′(O-benzyloxime) | 1.7 mmol, 0.70 g, 67% | C(C1=CC=CC=C1)ON=C1NC2=CC=C(C=C2C12CCCCC2)C2=CC=C(C=C2)F | C26H25FN2O
